US07683067B2
6-(6-Cyano-2-hydroxy-1H-indol-3-yl)-N-(2-pyrrolidin-1-ylethyl)pyridine-3-sulfonamide hydrochloride
To a suspension of sodium hydride (97%, 0.036 g, 1.5 mmol) in 1-methyl-2-pyrrolidinone (2 mL) was added 2-oxoindoline-6-carbonitrile (0.119 g, 0.75 mmol). The formed mixture was stirred for 5 min at room temperature and 6-chloro-N-(2-pyrrolidin-1-ylethyl)pyridine-3-sulfonamide (0.145 g, 0.5 mmol) was added. The resulting reaction mixture was set under an N2 atmosphere and stirred for 1 h at 90° C. Methanol (0.4 mL) was added and the solvents were removed in vacuo. The crude product was purified by preparative HPLC purification (XTerra®PrepMS C8 column 10 μm, 30×150 mm; 0.1 M NH4OAc buffer/acetonitrile, (80:20 to 40:60), as a eluent gradient). The collected product was stirred for 16 h in methanol/ethyl acetate, (5:1 mL), and the brownish red solid was collected by filtration affording 0.056 g (27% yield) of the title compound as the base. The base (0.046 g, 0.11 mmol) was dissolved in chloroform/methanol, (1:1), and treated with HCl in diethyl ether (1 M) at 0° C. The resulting brownish red crystals were collected by filtration and washed with diethyl ether to obtain 0.022 g (40% yield) of the title compound: 1H NMR (D2O, 400 MHz) δ 8.63 (s, 1H), 8.10 (d, J=9.2 Hz, 1H), 7.99 (d, J=8.4 Hz, 1H), 7.80 (dd, J=9.2, 2.4 Hz, 1H), 7.22 (s, 1H), 7.21 (dd, J=8.0, 1.6 Hz, 1H) 2.91 (t, J=6.8 Hz, 2H), 2.51 (m, 6H), 1.61 (br s, 4H); MS (EI) m/z 412 (M++1).

reactant | sodium hydride | 1.5 mmol, 0.036 g | [H-].[Na+]
reactant | 2-oxoindoline-6-carbonitrile | 0.75 mmol, 0.119 g | O=C1NC2=CC(=CC=C2C1)C#N | C9H6N2O
reactant | 6-chloro-N-(2-pyrrolidin-1-ylethyl)pyridine-3-sulfonamide | 0.5 mmol, 0.145 g | ClC1=CC=C(C=N1)S(=O)(=O)NCCN1CCCC1 | C11H16ClN3O2S
reactant | Methanol | 0.4 mL | CO | CH4O
solvent | 1-methyl-2-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 6-(6-Cyano-2-hydroxy-1H-indol-3-yl)-N-(2-pyrrolidin-1-ylethyl)pyridine-3-sulfonamide hydrochloride | 0.056 g, 27% yield | Cl.C(#N)C1=CC=C2C(=C(NC2=C1)O)C1=CC=C(C=N1)S(=O)(=O)NCCN1CCCC1 | InChI=1S/C20H21N5O3S.ClH/c21-12-14-3-5-16-18(11-14)24-20(26)19(16)17-6-4-15(13-22-17)29(27,28)23-7-10-25-8-1-2-9-25;/h3-6,11,13,23-24,26H,1-2,7-10H2;1H
